US04303664
A solution of 8-hydroxycoumarin-3-carboxylic acid (2.06 g) in 10 ml thionyl chloride was heated under reflux for three hours, and 8-hydroxycoumarin-3-carboxylic acid chloride was obtained by distilling off the excess thionyl chloride. This was added in small portions to a methylene chloride solution (100 ml) containing ampicillin trihydrate (4.1 g) and triethylamine (3.5 ml) over a period of forty minutes under stirring and cooling on ice.

reactant | 8-hydroxycoumarin-3-carboxylic acid | 2.06 g | OC=1C=CC=C2C=C(C(OC12)=O)C(=O)O | C10H6O5
reactant | thionyl chloride | 10 ml | S(=O)(Cl)Cl | Cl2OS
product | 8-hydroxycoumarin-3-carboxylic acid chloride | OC=1C=CC=C2C=C(C(OC12)=O)C(=O)Cl | C10H5ClO4
